US05436240
Diethyl (dipropylamino){(2-(diacetylamino)-3-methoxyphenyl)methyl}propanedioate (6.34 g) was dissolved in sodium ethoxide in ethanol (150 mL of 1.4 M). After 20 min, the solution was heated under reflux for 15 hours; water was added to the reaction after 1 hour (1 mL), 3 hours (2 mL), 4 hours (5 mL) and 5 hours (15 mL). The solution was filtered to remove precipitated inorganic material and the solvents were removed trader reduced pressure, and the residue was partitioned between ethyl acetate and water. The oil obtained after evaporation of the ethyl acetate was chromatographed on silica gel to give 3.3 g of 3-(dipropylamino)-3, 4-dihydro-8-methoxy-2(1H)quinolinone. The product was crystallized from pentane to give 2.0 g of product, mp 50°°-54° C. Anal Calcd for C16H24N2O2 : C, 69.53; H, 8.75; N, 10.14. Found: C, 69.56; H, 8.98; N, 10.24.

reactant | Diethyl (dipropylamino){(2-(diacetylamino)-3-methoxyphenyl)methyl}propanedioate | 6.34 g | C(CC)N(CCC)C(C(=O)OCC)(C(=O)OCC)CC1=C(C(=CC=C1)OC)N(C(C)=O)C(C)=O | C25H38N2O7
reactant | water | O | H2O
solvent | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 1.4 M, 150 mL | C(C)O | C2H6O
product | 3-(dipropylamino)-3, 4-dihydro-8-methoxy-2(1H)quinolinone | 3.3 g | C(CC)N(C1C(NC2=C(C=CC=C2C1)OC)=O)CCC | C16H24N2O2
